US08124639B2
To a stirring solution of 6-{[(1-Methyl-1H-imidazole-4-carbonyl)-(3-trifluoromethoxy-benzyl)-amino]-methyl}-3-aza-bicyclo[3.1.0]hexane-3-carboxylic acid tert-butyl ester prepared above (2.63 gm, 5.63 mmol) in 30 mL DMF was added potassium carbonate (3.89 gm, 28.2 mmol), tetraethylammonium chloride (150 mg), followed by benzyl 2-bromoacetate (0.88 mL, 5.63 mmol). The reaction was stirred at room temperature for 20 hours and quenched with water. The mixture was diluted with ethyl acetate, the layers separated and the aqueous layer extracted three times with ethyl acetate. The combined organic layers were dried over anhydrous sodium sulfate, filtered and concentrated to yield 2.8 gm of crude material. The crude material was purified by flash chromatography to yield 2.7 gm of benzyl 2-(6-((N-(3-(trifluoromethoxy)benzyl)-1-methyl-1H-imidazole-4-carboxamido)methyl)-3-aza-bicyclo[3.1.0]hexan-3-yl)acetate; MS (M+1) 543.3.

reactant | 6-{[(1-Methyl-1H-imidazole-4-carbonyl)-(3-trifluoromethoxy-benzyl)-amino]-methyl}-3-aza-bicyclo[3.1.0]hexane-3-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC2C(C2C1)CN(CC1=CC(=CC=C1)OC(F)(F)F)C(=O)C=1N=CN(C1)C | C24H29F3N4O4
reactant | potassium carbonate | 28.2 mmol, 3.89 gm | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl 2-bromoacetate | 5.63 mmol, 0.88 mL | BrCC(=O)OCC1=CC=CC=C1 | C9H9BrO2
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
catalyst | tetraethylammonium chloride | 150 mg | [Cl-].C(C)[N+](CC)(CC)CC
product | benzyl 2-(6-((N-(3-(trifluoromethoxy)benzyl)-1-methyl-1H-imidazole-4-carboxamido)methyl)-3-aza-bicyclo[3.1.0]hexan-3-yl)acetate | 2.7 gm | FC(OC=1C=C(CN(C(=O)C=2N=CN(C2)C)CC2C3CN(CC23)CC(=O)OCC2=CC=CC=C2)C=CC1)(F)F | C28H29F3N4O4
